US05885986
A suspension of 1.0 g (0.00263 mol) of 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one in 60 ml of tetrahydrofuran was treated with 7.2 ml (0.0527 mol) of dipropylamine and 5 ml of dimethylformamide. After stirring at reflux for 16 hrs. the suspension obtained was filtered and the solution was completely freed from the solvents. The residue was chromatographed over silica gel with ethyl acetate as the eluent and recrystallized from hot isopropyl ether. There was obtained 0.52 g (44%) of 7-chloro-3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 121°-123°.

reactant | 7-chloro-3-(4-chloromethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | 0.00263 mol, 1.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1SC=C(N1)CCl)C)=O | C16H12Cl2N4OS
reactant | dipropylamine | 0.0527 mol, 7.2 ml | C(CC)NCCC | C6H15N
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-(4-dipropylaminomethyl-thiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.52 g, 44% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1SC=C(N1)CN(CCC)CCC)C)=O | C22H26ClN5OS
